US06239142B1
7-Benzyl-N-(4-chlorobenzyl)-2-(4-morpholinylmethyl)-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide.
N-(4-Chlorobenzyl)-4-hydroxy-2-(4-morpholinylmethyl)thieno[2,3-b]pyridine-5-carboxamide (418 mg) from Example No. 41 and potassium carbonate (152 mg) are suspended in DMF (10 mL) and to the mixture is added benzylbromide (130 μL). The reaction mixture is allowed to stir at room temperature for 18 h. The resulting suspension is poured into water (10 mL), filtered, and washed with water (5 mL) followed by diethyl ether (5 mL). The resulting crude solid is purified by recrystallization from ethanol to afford 400 mg (79%) of the title compound as a white solid.

reactant | N-(4-Chlorobenzyl)-4-hydroxy-2-(4-morpholinylmethyl)thieno[2,3-b]pyridine-5-carboxamide | 418 mg | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)CN3CCOCC3)O)C=C1 | C20H20ClN3O3S
reactant | potassium carbonate | 152 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 130 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 10 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 7-Benzyl-N-(4-chlorobenzyl)-2-(4-morpholinylmethyl)-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 400 mg, 79% | C(C1=CC=CC=C1)N1C2=C(C(C(=C1)C(=O)NCC1=CC=C(C=C1)Cl)=O)C=C(S2)CN2CCOCC2 | C27H26ClN3O3S
